US09403818B2
Preparation of methyl 8-(4-amino-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(4-amino-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (150 mg, 0.51 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-aniline (135 mg, 0.62 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (25 mg, 14%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.51 mmol, 150 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-aniline | 0.62 mmol, 135 mg | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
product | methyl 8-(4-amino-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 25 mg, 14% | NC1=CC=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C21H20N2O3
